US07354933B2
Preparation of 1-quinol-4-ylmethyl-3-(4-trifluoromethanesulfonylphenyl)imidazolidine-2,4-dione trifluoroacetate
The compound is prepared from 4 mmol of resin, 12 mmol of N-Fmoc-Gly(OH), 20 mmol of 4-quinolinecarboxaldehyde, and 10 mmol of 4-(trifluoromethanesulfonyl)aniline, in the same way as in Example 1. After purification by preparative LC-MS, 1 g of expected product is obtained.

reactant | N-Fmoc-Gly(OH) | 12 mmol | N(C(C(=O)O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C17H15NO5
reactant | 4-quinolinecarboxaldehyde | 20 mmol | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
reactant | 4-(trifluoromethanesulfonyl)aniline | 10 mmol | FC(S(=O)(=O)C1=CC=C(N)C=C1)(F)F | C7H6F3NO2S
product | 1-quinol-4-ylmethyl-3-(4-trifluoromethanesulfonylphenyl)imidazolidine-2,4-dione trifluoroacetate | 1 g | FC(C(=O)O)(F)F.N1=CC=C(C2=CC=CC=C12)CN1C(N(C(C1)=O)C1=CC=C(C=C1)S(=O)(=O)C(F)(F)F)=O | InChI=1S/C20H14F3N3O4S.C2HF3O2/c21-20(22,23)31(29,30)15-7-5-14(6-8-15)26-18(27)12-25(19(26)28)11-13-9-10-24-17-4-2-1-3-16(13)17;3-2(4,5)1(6)7/h1-10H,11-12H2;(H,6,7)
